US07932272B2
4-(2-Propoxy-ethyl)-benzylamine
To a mixture of lithium aluminum hydride (120 mg, 2.5 mmol) and tetrahydrofuran (3 mL) was added 4-(2-propoxy-ethyl)-benzonitrile described in Preparation Example 196 (120 mg, 0.62 mmol), the solution was stirred overnight at room temperature. The reaction solution was cooled to 0° C., tetrahydrofuran (30 mL), water (0.12 mL), an aqueous solution of 5N sodium hydroxide (0.12 mL) and water (0.36 mL) were sequentially added dropwise. After stirring for 1 hour at room temperature, this reaction mixture was filtered through a filter paper. This filtrate was concentrated in vacuao, the residue was filtered using NH-silica gel, and the title compound (123 mg, 0.64 mmol, 103%) was obtained as a colorless oil.

reactant | lithium aluminum hydride | 2.5 mmol, 120 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | 4-(2-propoxy-ethyl)-benzonitrile | C(CC)OCCC1=CC=C(C#N)C=C1 | C12H15NO
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 5N, 0.12 mL | [OH-].[Na+]
solvent | water | 0.36 mL | O | H2O
solvent | water | 0.12 mL | O | H2O
product | 4-(2-Propoxy-ethyl)-benzylamine | 0.64 mmol, 123 mg, 103% | C(CC)OCCC1=CC=C(CN)C=C1 | C12H19NO
